US08138333B2
4-Ethyl-1-(phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[3,4,5-cd]indole hydrochloride
1-(Phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[3,4,5-cd]indole hydrochloride, Example 12 (70 mg, 0.2 mmol) was dissolved in THF (4 mL) before sodium triacetoxyborohydride (142 mg, 0.7 mmol) and acetic acid (134 mg, 2.2 mmol) was added. acetaldehyde (14.7 mg, 0.3 mmol) was added and the reaction mixture was heated in MW at 70° C. for 600 s. The reaction mixture was evaporated and the crude product was purified by preparative HPLC (33-63), using Xterra column. The product was isolated and transformed to the hydrochloride. 12.9 mg of the pure product was isolated as a clear oil. MS m/z 341 [M+H]+.

reactant | 1-(Phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[3,4,5-cd]indole hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=C2C=3C(=CC=CC13)CCNC2
reactant | sodium triacetoxyborohydride | 0.7 mmol, 142 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 2.2 mmol, 134 mg | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 0.3 mmol, 14.7 mg | C(C)=O | C2H4O
reactant | hydrochloride | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-Ethyl-1-(phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[3,4,5-cd]indole hydrochloride | 12.9 mg | Cl.C(C)N1CC2=CN(C=3C=CC=C(C23)CC1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C19H20N2O2S.ClH/c1-2-20-12-11-15-7-6-10-18-19(15)16(13-20)14-21(18)24(22,23)17-8-4-3-5-9-17;/h3-10,14H,2,11-13H2,1H3;1H
